US07105532B2
Cyclopropanecarboxylic acid [5-(6-methylpyridin-3-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl]amide
Cyclopropanecarboxylic acid [1-(1-cyclopropylmethanoyl)-5-(6-methylpyridin-3-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl]amide (Description 4; 196 mg, 0.542 mmol), was dissolved in piperidine (2 mL) and stirred at room temperature for 16 hours. The piperidine was removed in vacuo, and the resulting oily residue was triturated with water to give the title compound as a solid.

reactant | Cyclopropanecarboxylic acid [1-(1-cyclopropylmethanoyl)-5-(6-methylpyridin-3-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl]amide | 0.542 mmol, 196 mg | C1(CC1)C(=O)N1N=C(C=2C1=CN=C(C2)C=2C=NC(=CC2)C)NC(=O)C2CC2 | C20H19N5O2
solvent | piperidine | 2 mL | N1CCCCC1 | C5H11N
product | Cyclopropanecarboxylic acid [5-(6-methylpyridin-3-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl]amide | CC1=CC=C(C=N1)C=1C=C2C(=CN1)NN=C2NC(=O)C2CC2 | C16H15N5O
